US08859564B2
2) 2-(4-(1H-1,2,4-triazol-1-yl)benzyl)-5-methyl-3-(methylthio)-7-neopentyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
2-(4-(1H-1,2,4-triazol-1-yl)benzyl)-5-methyl-7-neopentyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione (52 mg, 0.132 mmol) and methyl disulfide (12 μL, 0.13 mmol) are dissolved in 2 mL of anhydrous CH2Cl2, and then 1.0 M LiHMDS (190 μL, 0.19 mmol) in THF is added dropwise. The reaction mixture is stirred at room temperature for 30 min, and then quenched with saturated ammonium chloride aqueous solution. After routine workup, the obtained crude product is purified by silica gel column chromatography to give pure product as off-white solids. MS (ESI) m/z 440.2 [M+H]+.

reactant | 2-(4-(1H-1,2,4-triazol-1-yl)benzyl)-5-methyl-7-neopentyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 0.132 mmol, 52 mg | N1(N=CN=C1)C1=CC=C(CN2N=C3N(C(N(C(C3=C2)=O)C)=O)CC(C)(C)C)C=C1 | C20H23N7O2
reactant | methyl disulfide | 0.13 mmol, 12 μL | CSSC | C2H6S2
reactant | LiHMDS | 0.19 mmol, 1.0 M, 190 μL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-(1H-1,2,4-triazol-1-yl)benzyl)-5-methyl-3-(methylthio)-7-neopentyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | N1(N=CN=C1)C1=CC=C(CN2N=C3N(C(N(C(C3=C2SC)=O)C)=O)CC(C)(C)C)C=C1 | C21H25N7O2S
